US07427683B2
a) 1-(2-Chloro-6-nitro-phenyl)-piperidine
To a flask containing 2,3-dichloronitrobenzene (387 mg, 2.01 mmol) was added 3 mL of piperidine, and the result was heated to 80° C. overnight. The reaction was diluted with EtOAc (30 mL), washed with water (2×30 mL), dried (Na2SO4) and concentrated in vacuo. Purification by preparative tlc (20% EtOAc-hexane) yielded 320 mg (66%) of the title compound as a yellow solid. 1H-NMR (CDCl3; 400 MHz): δ 7.56-7.50 (m, 2H), 7.04 (t, 1H, J=8.1 Hz), 3.04 (br s, 4H), 1.69 (br s, 4H), 1.59 (br s obscured by water, 2H).

reactant | 2,3-dichloronitrobenzene | 2.01 mmol, 387 mg | ClC1=C(C=CC=C1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | piperidine | 3 mL | N1CCCCC1 | C5H11N
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 1-(2-Chloro-6-nitro-phenyl)-piperidine | 320 mg, 66% | ClC1=C(C(=CC=C1)[N+](=O)[O-])N1CCCCC1 | C11H13ClN2O2
